US09029399B2
Preparation of the title compound 1-(2-chloropyridin-4-yl)-3-(4-cyclopentyl-pyridin-3-yl)-imidazolidin-2-one (34A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(2-chloro-pyridin-4-yl)imidazolidin-2-one (I-33b: 75 mg, 0.38 mmol) was reacted with and 3-bromo-4-cyclopentyl-pyridine (I-34c: 95 mg, 0.418 mmol) copper iodide (7.22 mg, 0.38 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (16.21 mg, 0.114 mmol), potassium phosphate (241.9 mg, 1.15 mmol) and 1,4-dioxane (5 mL) to yield the crude product. Purified by preparative HPLC afforded 2.50 mg of the product (2% yield).

reactant | 1-(2-chloro-pyridin-4-yl)imidazolidin-2-one | 0.38 mmol, 75 mg | ClC1=NC=CC(=C1)N1C(NCC1)=O | C8H8ClN3O
reactant | 3-bromo-4-cyclopentyl-pyridine | 0.418 mmol, 95 mg | BrC=1C=NC=CC1C1CCCC1 | C10H12BrN
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.114 mmol, 16.21 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.15 mmol, 241.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.38 mmol, 7.22 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(2-chloropyridin-4-yl)-3-(4-cyclopentyl-pyridin-3-yl)-imidazolidin-2-one | 2.50 mg, 2% yield | ClC1=NC=CC(=C1)N1C(N(CC1)C=1C=NC=CC1C1CCCC1)=O | C18H19ClN4O
